US08377990B2
Synthesis of N-(3-(4-(trifluoromethyl)phenoxy)-3-phenylpropyl)-4-amino-N-methylbutanamide Hydrochloride (AN-227)
tert-Butyl 3-(N-(3-(4-(Trifluoromethyl)phenoxy)-3-phenylpropyl)-N-methyl carbamoyl)propylcarbamate (AN-229) was prepared as described in WO 2005/092392. AN-229 (0.5 mmol) was added to a solution of HCl in EtOAc (35 ml) and the resulting mixture was stirred for 3 hours. The solvent was thereafter evaporated and the product, AN-227, was obtained in quantitative yield.

reactant | tert-Butyl 3-(N-(3-(4-(Trifluoromethyl)phenoxy)-3-phenylpropyl)-N-methyl carbamoyl)propylcarbamate | FC(C1=CC=C(OC(CCN(C(=O)CCCNC(OC(C)(C)C)=O)C)C2=CC=CC=C2)C=C1)(F)F | C26H33F3N2O4
reactant | HCl | Cl | ClH
solvent | EtOAc | 35 ml | CCOC(=O)C | C4H8O2
product | N-(3-(4-(trifluoromethyl)phenoxy)-3-phenylpropyl)-4-amino-N-methylbutanamide Hydrochloride | quantitative yield | Cl.FC(C1=CC=C(OC(CCN(C(CCCN)=O)C)C2=CC=CC=C2)C=C1)(F)F | InChI=1S/C21H25F3N2O2.ClH/c1-26(20(27)8-5-14-25)15-13-19(16-6-3-2-4-7-16)28-18-11-9-17(10-12-18)21(22,23)24;/h2-4,6-7,9-12,19H,5,8,13-15,25H2,1H3;1H
